US05374373
To a suspension of 2.82 g of 4-(4-n-octylphenyl) phenol in 40 ml of 1,2-dichloroethane were added under ice cooling, 6 ml of a solution of boron trichloride (2M) in 1,2-dichloroethane, and then 0.82 ml of methyl thiocyanate and 1.33 g of aluminum chloride. The mixture was stirred at room temperature until the aluminum chloride is dissolved, further stirred for 3 hours at 80° C. and cooled to room temperature. To the resulting mixture was added further 33 ml of 4N-sodium hydroxide solution. The mixture was stirred for 30 minutes at 75° to 80° C. After cooling, the reaction mixture was washed with methylene chloride. The aqueous phase was adjusted to pH2 with 6N hydrochloric acid and extracted with ether. The extract was dried and evaporated under reduced pressure to obtain crude crystals. The crystals were purified by a silica gel column chromatography to give 2.03 g of 4-(4-n-octylphenyl)-2-cyanophenol.

reactant | 4-(4-n-octylphenyl) phenol | 2.82 g | C(CCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C20H26O
reactant | boron trichloride | 2M | B(Cl)(Cl)Cl | BCl3
reactant | methyl thiocyanate | 0.82 ml | CSC#N | C2H3NS
reactant | aluminum chloride | 1.33 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
product | 4-(4-n-octylphenyl)-2-cyanophenol | 2.03 g | C(CCCCCCC)C1=CC=C(C=C1)C1=CC(=C(C=C1)O)C#N | C21H25NO
